US05565577
iv. Preparation of 2-bromo-3-(1-methylethoxy)-2-propenal
With moderate agitation, a 20 gallon reactor system was charged with cyclohexane (29.12 L), 2-bromo-malonaldehyde (2.33 kg), p-toluenesulfonic acid monohydrate 43.94 g, and 2-propanol (4.65 L). The contents of the reactor were heated to allow for the removal of distillate under atmospheric pressure (jacket temp. 95° C. and process temp. at 66.4° C.). A total of 16 L of distillate was removed from the reaction via the cooling tower. This represents approximately 47% of the total volume of cyclohexane/2-propanol (33.77 L) being removed from the reactor. The reaction solution was cooled to near ambient temperature and transferred to a 10 gallon reactor system at 40° C. An additional 6 L of distillate was removed under vacuum (~64 torr, jacket temp. 62° C., and reaction temp. 25° C.). The mobile dark orange oil was drained from the vessel and transferred to a rotary evaporator receiver flask and further concentrated under house vacuum at ~30° C. using a rotary evaporator. About 0.2 L more of solvent was removed. Total product obtained was 3.072 kg (16 mol, 103% yield). The product was used as obtained in the next step. This material is unstable and must be kept in a freezer (<-5° C., under nitrogen). The shelve-life is about 2 weeks.

reactant | cyclohexane | 29.12 L | C1CCCCC1 | C6H12
reactant | 2-bromo-malonaldehyde | 2.33 kg | BrC(C=O)C=O | C3H3BrO2
reactant | p-toluenesulfonic acid monohydrate | 43.94 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | 2-propanol | 4.65 L | CC(C)O | C3H8O
product | 2-bromo-3-(1-methylethoxy)-2-propenal | 103% yield | BrC(C=O)=COC(C)C | C6H9BrO2
